US04046797
3-{3-Chloro-4-[(1,1-dimethyl-2-propynyloxy)methoxy]phenyl} urea
Sodium methoxide (0.54 gram, 0.01 mole) is added to a methanolic solution of 3-(3-chloro-4-hydroxyphenyl)-1,1-dimethylurea (2.14 grams, 0.01 mole) and the mixture heated at reflux during 2 hours. The solvent is removed under reduced pressure and to the residual material dry benzene is added and evaporated off. This procedure is repeated until a dry white powder is obtained. The sodium salt is suspended in dry acetone (50 ml.) and chloromethyl 1,1-dimethyl-2-propynyl ether (1.45 grams, 0.011 mole) is added dropwise with stirring. After the initial exothermic reaction the reaction mixture is allowed to stir for a further 4.5 hours, then cold aqueous sodium carbonate solution (10% w/v, 100 ml.) followed by water (50 ml.) are added(1) and stirred. The resulting solid(2) is filtered off, water washed and air dried. Crystallization from benzene-hexane affords 2.2 grams, 70%; melting point 150° to 151° C. of Compound 1.

reactant | Sodium methoxide | 0.01 mole, 0.54 gram | C[O-].[Na+]
reactant | 3-(3-chloro-4-hydroxyphenyl)-1,1-dimethylurea | 0.01 mole, 2.14 grams | ClC=1C=C(C=CC1O)NC(N(C)C)=O | C9H11ClN2O2
reactant | sodium | [Na] | Na
reactant | chloromethyl 1,1-dimethyl-2-propynyl ether | 0.011 mole, 1.45 grams | CC(C#C)(C)OCCl | C6H9ClO
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 3-{3-Chloro-4-[(1,1-dimethyl-2-propynyloxy)methoxy]phenyl} urea | ClC=1C=C(C=CC1OCOC(C#C)(C)C)NC(N)=O | C13H15ClN2O3
